US07049337B2
The compound of Example 1 (0.2 g, 0.92 mmol) was reacted with butyryl chloride (0.14 g, 0.69 mmol) in 50 mL methylene chloride in the presence of Et3N chilled by an ice water bath. The reaction was continued for 3 hours and the solvent removed in vacua. The crude product was dissolved in ethyl acetate and extracted with saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate, and chromatographed over a silica gel column. The pure compound was eluted with 1:4 EtOAc:hexane, yielding (R,S)-trans-7-methoxy-2-[N-(propynyl)-N-butyro)amino]tetralin in very good yield, 0.22 g (85% yield).

reactant | butyryl chloride | 0.69 mmol, 0.14 g | C(CCC)(=O)Cl | C4H7ClO
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tetralin | 85% yield | C1CCCC2=CC=CC=C12 | C10H12
